US07786108B2
Step 4. Preparation of (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add sodium azide (42 mg, 0.64 mmol) and triethylamine hydrochloride (88 mg, 0.64 mmol) to a solution of (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-cyano-amino]-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (124 mg, 0.21 mmol) in toluene (2 mL). Stir the mixture at 110° C. overnight. Cool down the mixture to room temperature, add 1N HCl (5 mL) and dichloromethane. Separate the layers, dry the organic phase over anhydrous magnesium sulfate, filter and remove the solvent under reduced pressure to provide 117 mg (89%) of the title compound. MS (ES−): 623 (M−H).

reactant | sodium azide | 0.64 mmol, 42 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.64 mmol, 88 mg | Cl.C(C)N(CC)CC
reactant | (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-cyano-amino]-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.21 mmol, 124 mg | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C(=C(C=C3)C(F)(F)F)C)C#N)C=C(C1)C(F)(F)F)(F)F | C26H24F9N3O2
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-(1H-tetrazol-5-yl)-amino]-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 117 mg, 89% | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C(=C(C=C3)C(F)(F)F)C)C3=NN=NN3)C=C(C1)C(F)(F)F)(F)F | C26H25F9N6O2
